US03987047
9-Bromo-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 9-bromo-1,2,4,5-tetrahydro-11-methyl- 3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 9-bromo-1,2,4,5-tetrahydro-11-methyl- 3H-azepino[4,5-b]quinoline | BrC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C | C14H15BrN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 9-Bromo-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 62% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)Br | InChI=1S/C17H19BrN2O2.ClH/c1-3-22-17(21)20-8-6-13-11(2)14-10-12(18)4-5-15(14)19-16(13)7-9-20;/h4-5,10H,3,6-9H2,1-2H3;1H
